US09290517B2
Step A: 1-[5-[2-[[(3R,3aR,6R,6aS)-6-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]-1-allyl-6-chloro-imidazo[4,5-b]pyridin-5-yl]-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl]-2-methyl-propan-2-ol
A mixture of Ruphos indoline precatalyst (12.6 mg, 0.017 mmol, Strem), 1-(5,6-dihydro-4H-pyrrolo[3,4-c]pyrazol-2-yl)-2-methyl-propan-2-ol 2,2,2-trifluoroacetic acid (102 mg, 0.346 mmol), potassium phosphate tribasic (184 mg, 0.865 mmol) and [(3R,3aR,6R,6aS)-3-(1-allyl-6-chloro-5-iodo-imidazo[4,5-b]pyridin-2-yl)oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane (100 mg, 0.173 mmol) in dioxane (1.0 ml) was degassed (3×) and placed under nitrogen before being heated to 110° C. After 18 hours, the reaction mixture was cooled to room temperature, diluted with EtOAc (30 ml), washed with water (20 ml), brine (10 mL), dried over MgSO4, filtered, and evaporated under reduced pressure to give an oil. The oil was purified on preparative silica plates (1×1000 u developed and eluted with EtOAc) to give the title compound. LC-MS: calculated for C30H43ClN6O5Si 630.28 observed m/e: 631.27 (M+H)+ (Rt 1.36/2 min)

reactant | Ruphos indoline | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4.N1CCC2=CC=CC=C12
reactant | 1-(5,6-dihydro-4H-pyrrolo[3,4-c]pyrazol-2-yl)-2-methyl-propan-2-ol 2,2,2-trifluoroacetic acid | 0.346 mmol, 102 mg | FC(C(=O)O)(F)F.N=1N(C=C2C1CNC2)CC(C)(O)C
reactant | potassium phosphate tribasic | 0.865 mmol, 184 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | [(3R,3aR,6R,6aS)-3-(1-allyl-6-chloro-5-iodo-imidazo[4,5-b]pyridin-2-yl)oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane | 0.173 mmol, 100 mg | C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)I)O[C@H]2[C@@H]1[C@H](OC2)[C@@H](CO1)O[Si](C)(C)C(C)(C)C | C21H29ClIN3O4Si
solvent | dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
product | 1-[5-[2-[[(3R,3aR,6R,6aS)-6-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]-1-allyl-6-chloro-imidazo[4,5-b]pyridin-5-yl]-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl]-2-methyl-propan-2-ol | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC=2N(C=1C(=NC(=C(C1)Cl)N1CC3=NN(C=C3C1)CC(C)(O)C)N2)CC=C | C30H43ClN6O5Si
